US05149703
Step 1: 6-Benzyloxy-4-chromanone
A mixture of 6-hydroxy-4-chromanone (18.6 g, 113 mmol), benzyl bromide (20 g, 116 mmol), and K2CO3 (21 g, 152 mmol) in acetone (110 ml) was refluxed for 20 hrs. The mixture was cooled, diluted with EtOAc, and filtered through celite. The filtrate was concentrated to an oil, which was triturated with 10% Et2O in hexane (150 ml) to gives, after filtration and washing, 28 g (87%) of the title compound.

reactant | 6-hydroxy-4-chromanone | 113 mmol, 18.6 g | OC=1C=C2C(CCOC2=CC1)=O | C9H8O3
reactant | benzyl bromide | 116 mmol, 20 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 152 mmol, 21 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 110 ml | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Benzyloxy-4-chromanone | C(C1=CC=CC=C1)OC=1C=C2C(CCOC2=CC1)=O | C16H14O3
